US05532241
A solution of 3.6 g of 1-[4-(5-methoxycarbonylindol-3-yl)butyl]-4-(chromen-4-on-6-yl)piperazine in 40 ml of THF is added dropwise with stirring at room temperature to a suspension of 0.6 g of lithium aluminum hyride in 20 ml of THF. The mixture is then stirred for a further hour at 25° C., 20 ml of dilute sodium hydroxide solution are added, the mixture is filtered and the filtrate is worked up in the customary manner. 1-[4-(5-Hydroxymethylindol-3-yl)butyl]-4-(chromen-4-on-6-yl)piperazine is obtained.

reactant | 1-[4-(5-methoxycarbonylindol-3-yl)butyl]-4-(chromen-4-on-6-yl)piperazine | 3.6 g | COC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=C2C(C=COC2=CC1)=O | C27H29N3O4
reactant | lithium aluminum | 0.6 g | [Al].[Li]
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[4-(5-Hydroxymethylindol-3-yl)butyl]-4-(chromen-4-on-6-yl)piperazine | OCC=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=C2C(C=COC2=CC1)=O | C26H29N3O3
